US05236940
Potassium thiocyanate (4.27 g) is added to a solution of 4-(2,2,3,3,3-pentafluoropropoxy)aniline (2.65 g) in acetic acid (25 cc), and the mixture is stirred for 10 minutes at a temperature in the region of 20° C. To the solution thereby obtained, a solution of bromine (0.56 cc) in acetic acid (5 cc) is introduced dropwise in the course of 35 minutes at a temperature of between 22° C. and 35° C., and the mixture is then stirred for 16 hours at a temperature in the region of 20° C. The reaction mixture is poured into a mixture of water and ice (150 cc), alkalinized with 28% strength ammonia solution (35 cc) and extracted 3 times with ethyl acetate (170 cc in total). After settling has taken place, the organic solution is separated and washed with distilled water to pH 8, dried over magnesium sulphate, filtered and evaporated at 50° C. under reduced pressure (20 mm Hg; 2.7 kPa). The product obtained (3.2 g) is purified by chromatography on a column of silica (250 g; particle size: 0.063-0.200 mm) with a mixture of cyclohexane and ethyl acetate (50:50 by volume) as eluant, and recrystallized in toluene (15 cc). 6-(2,2,3,3,3-Pentafluoropropoxy)-2-benzothiazolamine (1.27 g), m.p. 147° C., is obtained.

reactant | Potassium thiocyanate | 4.27 g | [S-]C#N.[K+]
reactant | 4-(2,2,3,3,3-pentafluoropropoxy)aniline | 2.65 g | FC(COC1=CC=C(N)C=C1)(C(F)(F)F)F | C9H8F5NO
reactant | bromine | 0.56 cc | BrBr | Br2
reactant | ammonia | 35 cc | N | H3N
solvent | acetic acid | 25 cc | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 cc | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(2,2,3,3,3-Pentafluoropropoxy)-2-benzothiazolamine | 1.27 g | FC(COC1=CC2=C(N=C(S2)N)C=C1)(C(F)(F)F)F | C10H7F5N2OS
